US04261888
(f) Boc-Tyr-(D)Ala-Gly-OH
12 g of Boc-Tyr-(D)Ala-Gly-OBzl are dissolved in a mixture of methanol/H2O (9:1) and hydrogenated in the presence of Pd-C at normal pressure and room temperature. The mixture is fitered off from the catalyst, reduced in volume and crystallised from methanol/CH2CL2 /ether. Decomp. 110°.

reactant | Boc-Tyr-(D)Ala-Gly-OBzl | 12 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H33N3O7
solvent | methanol H2O | CO.O
solvent | Pd-C | [Pd] | Pd
product | Boc-Tyr-(D)Ala-Gly-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C19H27N3O7
